US05218115
1,3-Dihydro-1-(pyrrolidinecarbonyl)methyl-3(R)-{[(α-methyl)benzyloxy-carbonyl]-amino}-5-phenyl-2H-1,4-benzodiazepin-2-one
1,3-Dihydro-5-phenyl-3(R)-{[(α-methyl)benzyloxycarbonyl]-amino}-2H-1,4-benzodiazepin-2-one (100 mg, 0.25 mmole) in 2 ml of dry N,N-dimethylformamide was stirred magnetically in an ice bath under an inert atmosphere. Cesium carbonate (106 mg, 0.325 mmole) and pyrrolidinyliodoacetamide (78 mg, 0.325 mmole) were added and the reaction mixture was stirred vigorously at 0° C. for 1.75 hours. The reaction mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate and the combined organic extracts were washed with brine. The crude product was chromatographed on three, 1 mm×20 cm×20 cm precoated silica gel plates (3:2 hexane-ethyl acetate elution) to give 109 mg of the title compound.

reactant | 1,3-Dihydro-5-phenyl-3(R)-{[(α-methyl)benzyloxycarbonyl]-amino}-2H-1,4-benzodiazepin-2-one | 0.25 mmole, 100 mg | C1(=CC=CC=C1)C1=N[C@H](C(NC2=C1C=CC=C2)=O)NC(=O)OC(C2=CC=CC=C2)C | C24H21N3O3
reactant | Cesium carbonate | 0.325 mmole, 106 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | pyrrolidinyliodoacetamide | 0.325 mmole, 78 mg | N1(CCCC1)C(C(=O)N)I | C6H11IN2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1,3-Dihydro-1-(pyrrolidinecarbonyl)methyl-3(R)-{[(α-methyl)benzyloxy-carbonyl]-amino}-5-phenyl-2H-1,4-benzodiazepin-2-one | 109 mg | N1(CCCC1)C(=O)CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OC(C2=CC=CC=C2)C)=O | C30H30N4O4
